US06797718B2
Under a nitrogen atmosphere, diglyme (25 mL) was added to sodium hydride (1.81 g, 45.2 mmol), which is available as a 60% dispersion in mineral oil, and the mixture was cooled to 5° C. A solution of phenol (4.54 g, 48.2 mmol) in diglyme (50 mL) was added dropwise over a period of 15 minutes. The reaction became homogeneous after 15 minutes. A solution of (2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-[2-(pyridin-4-ylmethoxy)ethyl]amine (10.15 g, 30.14 mmol) was added, and the reaction was heated at 160° C. for 13 hours. An analysis by HPLC indicated the presence of starting material. Additional phenol (3.12 g, 33.2 mmol) was added to 60% sodium hydride (1.24 g, 31.1 mmol) in diglyme, and the mixture was stirred until it became homogeneous. This solution was added to the cooled reaction flask, and the reaction was heated at 160° C. for 9.5 hours. The reaction was allowed to cool to room temperature, and the volatiles were removed under reduced pressure to provide a black oil. The oil was dissolved in ethyl acetate, and the solution was washed with 1 N potassium hydroxide (3×) and brine (3×), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 80:20 ethyl acetate:hexane) to provide 2.47 g of (2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)-[2-(pyridin-4-ylmethoxy)ethyl]amine.

reactant | sodium hydride | 45.2 mmol, 1.81 g | [H-].[Na+]
reactant | phenol | 48.2 mmol, 4.54 g | C1(=CC=CC=C1)O | C6H6O
reactant | (2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-[2-(pyridin-4-ylmethoxy)ethyl]amine | 30.14 mmol, 10.15 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCOCC1=CC=NC=C1)C)C | C15H17ClN4O3
reactant | phenol | 33.2 mmol, 3.12 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 31.1 mmol, 1.24 g | [H-].[Na+]
solvent | diglyme | 50 mL | COCCOCCOC | C6H14O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diglyme | 25 mL | COCCOCCOC | C6H14O3
product | (2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)-[2-(pyridin-4-ylmethoxy)ethyl]amine | 2.47 g | CC1=NC(=C(C(=C1C)NCCOCC1=CC=NC=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C21H22N4O4
